US04112096
Pyrazolo[1,5-c]quinazolin-5(6H)-one-1-carboxylic acid
To 40 g (0.19 mole) of 1-methyl-pyrazolo[1,5-c]quinazolin-5(6H)-one in a rapidly stirring mixture of 350 g of concentrated sulfuric acid and 100 g of acetic acid is added, dropwise a solution of 100 g of chromic acid in 175 g water and 50 g acetic acid. After 12 hours, the reaction is poured into 2 l. of ice water. The reaction mixture is concentrated, cooled and the title compound filtered off and dried.

reactant | 1-methyl-pyrazolo[1,5-c]quinazolin-5(6H)-one | 0.19 mole, 40 g | CC=1C=NN2C(NC=3C=CC=CC3C21)=O | C11H9N3O
reactant | sulfuric acid | 350 g | S(O)(O)(=O)=O | H2O4S
reactant | chromic acid | 100 g | [Cr](=O)(=O)(O)O
reactant | acetic acid | 50 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 100 g | C(C)(=O)O | C2H4O2
solvent | water | 175 g | O | H2O
product | Pyrazolo[1,5-c]quinazolin-5(6H)-one-1-carboxylic acid | C=1(C=NN2C(NC=3C=CC=CC3C21)=O)C(=O)O | C11H7N3O3
